US08802728B2
Stir a solution of (S)-2-phenylpropanoic acid (300 mg, 2.0 mmol) in 5 mL of oxalyl chloride for 3 hours at room temperature. After removal of solvent under vacuum, (S)-2-phenylpropanoyl chloride is obtained as pole yellow oil. Dissolve the oil in 10 mL of CH2Cl2. Add (1S,2R,3R,5R)-2-((dimethylamino)methyl)-3-(3-hydroxyphenyl)bicyclo[3.2.1]octan-3-ol (400 mg, 1.45 mmol) and Et3N (293 mg, 2.9 mmol) to the solution. Stir the resultant mixture at room temperature for additional 3 hours. After addition of 20 mL of water, basify the mixture with K2CO3 to pH=10, and extract the aqueous mixture with EtOAc (20 mL×3). The combined organic layers are washed with brine (20 mL), dried over Na2SO4, filtered, and concentrated under vacuum. Purify the residue by silica gel chromatography (CH2Cl2:MeOH=30:1) to afford (S)-3-((1S,2R,3R,5R)-2-((dimethylamino)methyl)-3-hydroxybicyclo[3.2.1]octan-3-yl)phenyl 2-phenylpropanoate (500 mg, 84.7%; MS (m/z): 408 (M+1)) as yellow oil. Stir (S)-3-((1S,2R,3R,5R)-2-((dimethylamino)methyl)-3-hydroxybicyclo[3.2.1]octan-3-yl)phenyl 2-phenylpropanoate (250 mg, 0.61 mmol) with H2O (11 mg, 0.61 mmol) and TMSCl (66 mg, 0.61 mmol) in 2-butanone (5 mL) for 3 hours. Collect the precipitate by filtration to afford (S)-3-((1S,2R,3R,5R)-2-((dimethylamino)methyl)-3-hydroxybicyclo[3.2.1]octan-3-yl)phenyl 2-phenylpropanoate hydrochlorid (215 mg, Yield: 79.3%) as white solid. The absolute configuration of its hydrochloride salt form was confirmed by x-ray analysis. 1H NMR (400 MHz, DMSO) δ 9.81 (br, 1H), 7.31-7.41 (m, 7H), 7.14 (s, 1H), 6.87-6.90 (m, 1H), 5.01 (s, 1H), 4.08-4.10 (m, 1H), 3.02-3.08 (m, 1H), 2.42-2.58 (m, 4H), 2.12-2.26 (m, 6H), 1.90-1.99 (m, 2H), 1.75-1.80 (m, 2H), 1.51-1.59 (m, 6H).

reactant | (S)-3-((1S,2R,3R,5R)-2-((dimethylamino)methyl)-3-hydroxybicyclo[3.2.1]octan-3-yl)phenyl 2-phenylpropanoate | 0.61 mmol, 250 mg | C1(=CC=CC=C1)[C@@H](C(=O)OC1=CC(=CC=C1)[C@@]1([C@H]([C@H]2CC[C@@H](C1)C2)CN(C)C)O)C | C26H33NO3
reactant | H2O | 0.61 mmol, 11 mg | O | H2O
reactant | TMSCl | 0.61 mmol, 66 mg | C[Si](C)(C)Cl | C3H9ClSi
solvent | 2-butanone | 5 mL | CC(CC)=O | C4H8O
product | (S)-3-((1S,2R,3R,5R)-2-((dimethylamino)methyl)-3-hydroxybicyclo[3.2.1]octan-3-yl)phenyl 2-phenylpropanoate hydrochlorid | 215 mg, Yield: 79.3% | Cl.C1(=CC=CC=C1)[C@@H](C(=O)OC1=CC(=CC=C1)[C@@]1([C@H]([C@H]2CC[C@@H](C1)C2)CN(C)C)O)C | InChI=1S/C26H33NO3.ClH/c1-18(20-8-5-4-6-9-20)25(28)30-23-11-7-10-22(15-23)26(29)16-19-12-13-21(14-19)24(26)17-27(2)3;/h4-11,15,18-19,21,24,29H,12-14,16-17H2,1-3H3;1H/t18-,19+,21-,24-,26-;/m0./s1
